US06653471B2
A mixture of 5-Bromo-4-oxo-5,6,7,8-tetrahydro-4H-cyclohepta[b]pyrrole-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester(467 mg, 1.2 mmol), 4-Amidinopyridine hydrochloride(953 mg, 6.1 mmol), and NaHCO3(813 mg, 9.7 mmol) in dioxane(20 mL) is refluxed for 20 h. After cooling to RT, MeOH(5 mL) is added and the mixture is filtered. The filtrate is concentrated in vacuo and the brown residue is purified by flash chromatography on silica gel (10% MeOH/CH2Cl2) to yield 197 mg of 2-Pyridin-4-yl-4,5,6,7-tetrahydro-3H-1,3,7-triaza-cyclopenta[e]azulene-9-carboxylic acid methyl ester as a yellow solid (53%). 1H NMR (CDCl3) 2.06 (quint, 2H), 2.98 (t, 2H), 3.04 (t, 2H), 3.91 (s, 1H), 7.46 (s, 1H), 7.76 (d, 2H) 8.28 (br s, 1H) 8.56 (d, 2H)

reactant | 5-Bromo-4-oxo-5,6,7,8-tetrahydro-4H-cyclohepta[b]pyrrole-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | 1.2 mmol, 467 mg | COC(=O)C=1C2=C(N(C1)C(=O)OC(C)(C)C)CCCC(C2=O)Br | C16H20BrNO5
reactant | 4-Amidinopyridine hydrochloride | 6.1 mmol, 953 mg | Cl.C(N)(=N)C1=CC=NC=C1
reactant | NaHCO3 | 9.7 mmol, 813 mg | C(=O)(O)[O-].[Na+]
reactant | MeOH | 5 mL | CO | CH4O
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 2-Pyridin-4-yl-4,5,6,7-tetrahydro-3H-1,3,7-triaza-cyclopenta[e]azulene-9-carboxylic acid methyl ester | 197 mg, 53% | COC(=O)C1=CNC=2CCCC3=C(C12)N=C(N3)C3=CC=NC=C3 | C17H16N4O2
